US04725616
K3. 7-acetyloxindole
Starting with the appropriate reagents and following the procedure of Preparation K, 7-propionyloxindole, 7-benzoyloxindole, 7-(2-thenoyl)oxindole, 7-(3-thenoyl)oxindole, 5-methyl-7-acetyloxindole, 5-methylthio-7-acetyloxindole, 5-fluoro-7-benzoyloxindole and 5-bromo-7-(2-thenoyl)oxindole are prepared.

reactant | 7-propionyloxindole | C(CC)(=O)C=1C=CC=C2CC(NC12)=O | C11H11NO2
reactant | 7-benzoyloxindole | C(C1=CC=CC=C1)(=O)C=1C=CC=C2CC(NC12)=O | C15H11NO2
reactant | 7-(2-thenoyl)oxindole | C1(=CC=CS1)C(=O)C=1C=CC=C2CC(NC12)=O | C13H9NO2S
reactant | 7-(3-thenoyl)oxindole | C1=C(C=CS1)C(=O)C=1C=CC=C2CC(NC12)=O | C13H9NO2S
reactant | 5-methyl-7-acetyloxindole | CC=1C=C2CC(NC2=C(C1)C(C)=O)=O | C11H11NO2
reactant | 5-methylthio-7-acetyloxindole | CSC=1C=C2CC(NC2=C(C1)C(C)=O)=O | C11H11NO2S
reactant | 5-fluoro-7-benzoyloxindole | FC=1C=C2CC(NC2=C(C1)C(C1=CC=CC=C1)=O)=O | C15H10FNO2
reactant | 5-bromo-7-(2-thenoyl)oxindole | BrC=1C=C2CC(NC2=C(C1)C(C1=CC=CS1)=O)=O | C13H8BrNO2S
product | 7-acetyloxindole | C(C)(=O)C=1C=CC=C2CC(NC12)=O | C10H9NO2
